// Generated for: spectre
// Generated on: May  3 18:04:08 2022
// Design library name: Project_Lib1_sim
// Design cell name: integrated_sim
// Design view name: schematic
simulator lang=spectre
global 0 vdd!
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/l130e-rf-v171-control.scs"
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_LL12_V141.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HG_LVT33_BPW_V131.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HG_RVT33_BPW_V131.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HS12_BPW_V241.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HS_LVT12_BPW_V031.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_BJT_V141.lib.scs" section=typ_BIP
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HG_LVT33_V131.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HG_NVT33_v031.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HG_RVT33_V131.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HS12_V241.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HS_LVT12_V031.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_HS_NVT12_V041.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/MML130E_20f_MIMCAP_V011.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/MML130E_15f_MIMCAP_V021.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/MML130E_MIMCAP_V121.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/mm130e_mom_v031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/MML130E_RES_V152.lib.scs" section=res_typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_SP12_V141.lib.scs" section=tt
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/L130E_DIODE_V151.mdl.scs"
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_cr20k_rfvil_V031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_nwcr20k_rfvil_V031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_nwsqsk_rfvil_V031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_nwsy20kct_rfvil_V031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_nwsy20k_rfvil_V031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_sqsk_rfvil_V031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_sy20kct_rfvil_V031.lib.scs" section=typ
include "/usr/local/cadence6/G-9FD-MIXED_MODE_RFCMOS13-1P8M-MMC_FSG_L130E_UM130FDKMFC0000OA-FDK-Ver.A02_PB/umc13mmrf/../Models/Spectre/VIL/1P8M2T/l_sy20k_rfvil_V031.lib.scs" section=typ

// Library name: myLib
// Cell name: NAND
// View name: schematic
subckt NAND GND IN1 IN2 NAND VDD
    PM1 (NAND IN2 VDD VDD) p_12_hsl130e w=2u l=120.00n as=6.8e-13 \
        ad=6.8e-13 ps=4.68u pd=4.68u m=(1)*(1) nf=1 mis_flag=1 mf=(1)*(1)
    PM0 (NAND IN1 VDD VDD) p_12_hsl130e w=2u l=120.00n as=6.8e-13 \
        ad=6.8e-13 ps=4.68u pd=4.68u m=(1)*(1) nf=1 mis_flag=1 mf=(1)*(1)
    NM1 (net19 IN2 GND GND) n_12_hsl130e w=1u l=120.0n as=3.4e-13 \
        ad=3.4e-13 ps=2.68u pd=2.68u m=(1)*(1) nf=1 mis_flag=1 mf=(1)*(1)
    NM2 (NAND IN1 net19 GND) n_12_hsl130e w=1u l=120.0n as=3.4e-13 \
        ad=3.4e-13 ps=2.68u pd=2.68u m=(1)*(1) nf=1 mis_flag=1 mf=(1)*(1)
ends NAND
// End of subcircuit definition.

// Library name: Project_Lib1
// Cell name: inv
// View name: schematic
subckt inv GND IN OUT VDD
    NM0 (OUT IN GND GND) n_12_hsl130e w=160.0n l=130.0n as=9.44e-14 \
        ad=9.44e-14 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 mf=(1)*(1)
    PM0 (OUT IN VDD VDD) p_12_hsl130e w=640.0n l=130.0n as=2.176e-13 \
        ad=2.176e-13 ps=1.96u pd=1.96u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
ends inv
// End of subcircuit definition.

// Library name: Project_Lib1
// Cell name: binary
// View name: schematic
subckt binary A1 A2 A3 A4 A5 A6 A7 BC GND VDD
    I7 (GND net23 A5 net011 VDD) NAND
    I8 (GND net010 A6 net08 VDD) NAND
    I9 (GND net07 A7 BC VDD) NAND
    I3 (GND A1 A2 net20 VDD) NAND
    I2 (GND net016 A3 net17 VDD) NAND
    I1 (GND net014 A4 net18 VDD) NAND
    I14 (GND net08 net07 VDD) inv
    I13 (GND net011 net010 VDD) inv
    I12 (GND net18 net23 VDD) inv
    I10 (GND net20 net016 VDD) inv
    I11 (GND net17 net014 VDD) inv
ends binary
// End of subcircuit definition.

// Library name: Project_Lib1
// Cell name: asr
// View name: schematic
subckt asr ASR B1 B2 B3 B4 B5 B6 B7 DC GND VDD
    I0 (GND net9 DC ASR VDD) NAND
    I2 (B1 B2 B3 B4 B5 B6 B7 net9 GND VDD) binary
ends asr
// End of subcircuit definition.

// Library name: Project_Lib1
// Cell name: delay_chain
// View name: schematic
subckt delay_chain GND IN OUT VDD
    NM14 (OUT net0154 GND GND) n_12_hsl130e w=160.0n l=130.0n as=9.44e-14 \
        ad=9.44e-14 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 mf=(1)*(1)
    NM13 (net0154 net0152 GND GND) n_12_hsl130e w=160.0n l=130.0n \
        as=9.44e-14 ad=9.44e-14 ps=1.32u pd=1.32u m=(1)*(1) nf=1 \
        mis_flag=1 mf=(1)*(1)
    NM12 (net0152 net0150 GND GND) n_12_hsl130e w=160.0n l=130.0n \
        as=9.44e-14 ad=9.44e-14 ps=1.32u pd=1.32u m=(1)*(1) nf=1 \
        mis_flag=1 mf=(1)*(1)
    NM11 (net0150 net0148 GND GND) n_12_hsl130e w=160.0n l=130.0n \
        as=9.44e-14 ad=9.44e-14 ps=1.32u pd=1.32u m=(1)*(1) nf=1 \
        mis_flag=1 mf=(1)*(1)
    NM10 (net0148 net0146 GND GND) n_12_hsl130e w=160.0n l=130.0n \
        as=9.44e-14 ad=9.44e-14 ps=1.32u pd=1.32u m=(1)*(1) nf=1 \
        mis_flag=1 mf=(1)*(1)
    NM9 (net0146 net0144 GND GND) n_12_hsl130e w=160.0n l=130.0n \
        as=9.44e-14 ad=9.44e-14 ps=1.32u pd=1.32u m=(1)*(1) nf=1 \
        mis_flag=1 mf=(1)*(1)
    NM8 (net0144 net0142 GND GND) n_12_hsl130e w=160.0n l=130.0n \
        as=9.44e-14 ad=9.44e-14 ps=1.32u pd=1.32u m=(1)*(1) nf=1 \
        mis_flag=1 mf=(1)*(1)
    NM7 (net0142 net0140 GND GND) n_12_hsl130e w=160.0n l=130.0n \
        as=9.44e-14 ad=9.44e-14 ps=1.32u pd=1.32u m=(1)*(1) nf=1 \
        mis_flag=1 mf=(1)*(1)
    NM6 (net0140 net0138 GND GND) n_12_hsl130e w=160.0n l=130.0n \
        as=9.44e-14 ad=9.44e-14 ps=1.32u pd=1.32u m=(1)*(1) nf=1 \
        mis_flag=1 mf=(1)*(1)
    NM5 (net0138 net0135 GND GND) n_12_hsl130e w=160.0n l=130.0n \
        as=9.44e-14 ad=9.44e-14 ps=1.32u pd=1.32u m=(1)*(1) nf=1 \
        mis_flag=1 mf=(1)*(1)
    NM3 (net0133 net038 GND GND) n_12_hsl130e w=160.0n l=130.0n \
        as=9.44e-14 ad=9.44e-14 ps=1.32u pd=1.32u m=(1)*(1) nf=1 \
        mis_flag=1 mf=(1)*(1)
    NM4 (net0135 net0133 GND GND) n_12_hsl130e w=160.0n l=130.0n \
        as=9.44e-14 ad=9.44e-14 ps=1.32u pd=1.32u m=(1)*(1) nf=1 \
        mis_flag=1 mf=(1)*(1)
    NM1 (net036 net033 GND GND) n_12_hsl130e w=160.0n l=130.0n as=9.44e-14 \
        ad=9.44e-14 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 mf=(1)*(1)
    NM2 (net038 net036 GND GND) n_12_hsl130e w=160.0n l=130.0n as=9.44e-14 \
        ad=9.44e-14 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 mf=(1)*(1)
    NM0 (net033 IN GND GND) n_12_hsl130e w=160.0n l=130.0n as=9.44e-14 \
        ad=9.44e-14 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 mf=(1)*(1)
    PM14 (OUT net0154 VDD VDD) p_12_hsl130e w=640.0n l=130.0n as=2.176e-13 \
        ad=2.176e-13 ps=1.96u pd=1.96u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
    PM13 (net0154 net0152 VDD VDD) p_12_hsl130e w=640.0n l=130.0n \
        as=2.176e-13 ad=2.176e-13 ps=1.96u pd=1.96u m=(1)*(1) nf=1 \
        mis_flag=1 mf=(1)*(1)
    PM12 (net0152 net0150 VDD VDD) p_12_hsl130e w=640.0n l=130.0n \
        as=2.176e-13 ad=2.176e-13 ps=1.96u pd=1.96u m=(1)*(1) nf=1 \
        mis_flag=1 mf=(1)*(1)
    PM11 (net0150 net0148 VDD VDD) p_12_hsl130e w=640.0n l=130.0n \
        as=2.176e-13 ad=2.176e-13 ps=1.96u pd=1.96u m=(1)*(1) nf=1 \
        mis_flag=1 mf=(1)*(1)
    PM10 (net0148 net0146 VDD VDD) p_12_hsl130e w=640.0n l=130.0n \
        as=2.176e-13 ad=2.176e-13 ps=1.96u pd=1.96u m=(1)*(1) nf=1 \
        mis_flag=1 mf=(1)*(1)
    PM9 (net0146 net0144 VDD VDD) p_12_hsl130e w=640.0n l=130.0n \
        as=2.176e-13 ad=2.176e-13 ps=1.96u pd=1.96u m=(1)*(1) nf=1 \
        mis_flag=1 mf=(1)*(1)
    PM8 (net0144 net0142 VDD VDD) p_12_hsl130e w=640.0n l=130.0n \
        as=2.176e-13 ad=2.176e-13 ps=1.96u pd=1.96u m=(1)*(1) nf=1 \
        mis_flag=1 mf=(1)*(1)
    PM7 (net0142 net0140 VDD VDD) p_12_hsl130e w=640.0n l=130.0n \
        as=2.176e-13 ad=2.176e-13 ps=1.96u pd=1.96u m=(1)*(1) nf=1 \
        mis_flag=1 mf=(1)*(1)
    PM6 (net0140 net0138 VDD VDD) p_12_hsl130e w=640.0n l=130.0n \
        as=2.176e-13 ad=2.176e-13 ps=1.96u pd=1.96u m=(1)*(1) nf=1 \
        mis_flag=1 mf=(1)*(1)
    PM5 (net0138 net0135 VDD VDD) p_12_hsl130e w=640.0n l=130.0n \
        as=2.176e-13 ad=2.176e-13 ps=1.96u pd=1.96u m=(1)*(1) nf=1 \
        mis_flag=1 mf=(1)*(1)
    PM1 (net036 net033 VDD VDD) p_12_hsl130e w=(640nM)/(1) l=130.0n as=(((640nM)/(1)) < (160n+2*60n)) ? (((((280.0n)+(2*(60n-60n)))*(60n+160n+60n)) + (100n*((640nM)/(1)))) + (int(((1) - 1) / 2.0) * ((((280.0n)+(2*(60n-60n)))*(60n+160n+60n)) + (2*100n*((640nM)/(1))))) + ((((1) / 2) - int((1) / 2) == 0) ? ((((280.0n)+(2*(60n-60n)))*(60n+160n+60n)) + (100n*((640nM)/(1)))) : 0)) / (1) : (((640nM)/(1)*(60n-60n+(280.0n)+(120n-60n))) + (int(((1) - 1) / 2.0) * ((640nM)/(1)*((120n-60n)+(280.0n)+(120n-60n)))) + ((((1) / 2) - int((1) / 2) == 0) ? ((640nM)/(1)*(60n-60n+(280.0n)+(120n-60n))) : 0)) / (1) \
         ad=(((640nM)/(1)) < (160n+2*60n)) ? ((int((1) / 2.0) * ((((280.0n)+(2*(60n-60n)))*(60n+160n+60n)) + (2*100n*((640nM)/(1))))) + ((((1) / 2) - int((1) / 2) != 0) ? ((((280.0n)+(2*(60n-60n)))*(60n+160n+60n)) + (100n*((640nM)/(1)))) : 0)) / (1) : ((int((1) / 2.0) * ((640nM)/(1)*((120n-60n)+(280.0n)+(120n-60n)))) + ((((1) / 2) - int((1) / 2) != 0) ? ((640nM)/(1)*(60n-60n+(280.0n)+(120n-60n))) : 0)) / (1) \
         ps=(((640nM)/(1)) < (160n+2*60n)) ? ((2*(((280.0n)+(2*(60n-60n)))+(60n+160n+60n)+100n)) + (int(((1) - 1) / 2.0) * (2*(((280.0n)+(2*(60n-60n)))+(60n+160n+60n))+(4*100n))) + ((((1) / 2) - int((1) / 2) == 0) ? (2*(((280.0n)+(2*(60n-60n)))+(60n+160n+60n)+100n)) : 0)) / (1) : ((2*((640nM)/(1)+(60n-60n+(280.0n)+(120n-60n)))) + (int(((1) - 1) / 2.0) * (2*((640nM)/(1)+((120n-60n)+(280.0n)+(120n-60n))))) + ((((1) / 2) - int((1) / 2) == 0) ? (2*((640nM)/(1)+(60n-60n+(280.0n)+(120n-60n)))) : 0)) / (1) \
         pd=(((640nM)/(1)) < (160n+2*60n)) ? ((int((1) / 2.0) * (2*(((280.0n)+(2*(60n-60n)))+(60n+160n+60n))+(4*100n))) + ((((1) / 2) - int((1) / 2) != 0) ? (2*(((280.0n)+(2*(60n-60n)))+(60n+160n+60n)+100n)) : 0)) / (1) : ((int((1) / 2.0) * (2*((640nM)/(1)+((120n-60n)+(280.0n)+(120n-60n))))) + ((((1) / 2) - int((1) / 2) != 0) ? (2*((640nM)/(1)+(60n-60n+(280.0n)+(120n-60n)))) : 0)) / (1) \
         m=(1)*(1) nf=1 mis_flag=1 mf=(1)*(1)
    PM4 (net0135 net0133 VDD VDD) p_12_hsl130e w=640.0n l=130.0n \
        as=2.176e-13 ad=2.176e-13 ps=1.96u pd=1.96u m=(1)*(1) nf=1 \
        mis_flag=1 mf=(1)*(1)
    PM3 (net0133 net038 VDD VDD) p_12_hsl130e w=(640nM)/(1) l=130.0n as=(((640nM)/(1)) < (160n+2*60n)) ? (((((280.0n)+(2*(60n-60n)))*(60n+160n+60n)) + (100n*((640nM)/(1)))) + (int(((1) - 1) / 2.0) * ((((280.0n)+(2*(60n-60n)))*(60n+160n+60n)) + (2*100n*((640nM)/(1))))) + ((((1) / 2) - int((1) / 2) == 0) ? ((((280.0n)+(2*(60n-60n)))*(60n+160n+60n)) + (100n*((640nM)/(1)))) : 0)) / (1) : (((640nM)/(1)*(60n-60n+(280.0n)+(120n-60n))) + (int(((1) - 1) / 2.0) * ((640nM)/(1)*((120n-60n)+(280.0n)+(120n-60n)))) + ((((1) / 2) - int((1) / 2) == 0) ? ((640nM)/(1)*(60n-60n+(280.0n)+(120n-60n))) : 0)) / (1) \
         ad=(((640nM)/(1)) < (160n+2*60n)) ? ((int((1) / 2.0) * ((((280.0n)+(2*(60n-60n)))*(60n+160n+60n)) + (2*100n*((640nM)/(1))))) + ((((1) / 2) - int((1) / 2) != 0) ? ((((280.0n)+(2*(60n-60n)))*(60n+160n+60n)) + (100n*((640nM)/(1)))) : 0)) / (1) : ((int((1) / 2.0) * ((640nM)/(1)*((120n-60n)+(280.0n)+(120n-60n)))) + ((((1) / 2) - int((1) / 2) != 0) ? ((640nM)/(1)*(60n-60n+(280.0n)+(120n-60n))) : 0)) / (1) \
         ps=(((640nM)/(1)) < (160n+2*60n)) ? ((2*(((280.0n)+(2*(60n-60n)))+(60n+160n+60n)+100n)) + (int(((1) - 1) / 2.0) * (2*(((280.0n)+(2*(60n-60n)))+(60n+160n+60n))+(4*100n))) + ((((1) / 2) - int((1) / 2) == 0) ? (2*(((280.0n)+(2*(60n-60n)))+(60n+160n+60n)+100n)) : 0)) / (1) : ((2*((640nM)/(1)+(60n-60n+(280.0n)+(120n-60n)))) + (int(((1) - 1) / 2.0) * (2*((640nM)/(1)+((120n-60n)+(280.0n)+(120n-60n))))) + ((((1) / 2) - int((1) / 2) == 0) ? (2*((640nM)/(1)+(60n-60n+(280.0n)+(120n-60n)))) : 0)) / (1) \
         pd=(((640nM)/(1)) < (160n+2*60n)) ? ((int((1) / 2.0) * (2*(((280.0n)+(2*(60n-60n)))+(60n+160n+60n))+(4*100n))) + ((((1) / 2) - int((1) / 2) != 0) ? (2*(((280.0n)+(2*(60n-60n)))+(60n+160n+60n)+100n)) : 0)) / (1) : ((int((1) / 2.0) * (2*((640nM)/(1)+((120n-60n)+(280.0n)+(120n-60n))))) + ((((1) / 2) - int((1) / 2) != 0) ? (2*((640nM)/(1)+(60n-60n+(280.0n)+(120n-60n)))) : 0)) / (1) \
         m=(1)*(1) nf=1 mis_flag=1 mf=(1)*(1)
    PM2 (net038 net036 VDD VDD) p_12_hsl130e w=640.0n l=130.0n \
        as=2.176e-13 ad=2.176e-13 ps=1.96u pd=1.96u m=(1)*(1) nf=1 \
        mis_flag=1 mf=(1)*(1)
    PM0 (net033 IN VDD VDD) p_12_hsl130e w=(640nM)/(1) l=130.0n as=(((640nM)/(1)) < (160n+2*60n)) ? (((((280.0n)+(2*(60n-60n)))*(60n+160n+60n)) + (100n*((640nM)/(1)))) + (int(((1) - 1) / 2.0) * ((((280.0n)+(2*(60n-60n)))*(60n+160n+60n)) + (2*100n*((640nM)/(1))))) + ((((1) / 2) - int((1) / 2) == 0) ? ((((280.0n)+(2*(60n-60n)))*(60n+160n+60n)) + (100n*((640nM)/(1)))) : 0)) / (1) : (((640nM)/(1)*(60n-60n+(280.0n)+(120n-60n))) + (int(((1) - 1) / 2.0) * ((640nM)/(1)*((120n-60n)+(280.0n)+(120n-60n)))) + ((((1) / 2) - int((1) / 2) == 0) ? ((640nM)/(1)*(60n-60n+(280.0n)+(120n-60n))) : 0)) / (1) \
         ad=(((640nM)/(1)) < (160n+2*60n)) ? ((int((1) / 2.0) * ((((280.0n)+(2*(60n-60n)))*(60n+160n+60n)) + (2*100n*((640nM)/(1))))) + ((((1) / 2) - int((1) / 2) != 0) ? ((((280.0n)+(2*(60n-60n)))*(60n+160n+60n)) + (100n*((640nM)/(1)))) : 0)) / (1) : ((int((1) / 2.0) * ((640nM)/(1)*((120n-60n)+(280.0n)+(120n-60n)))) + ((((1) / 2) - int((1) / 2) != 0) ? ((640nM)/(1)*(60n-60n+(280.0n)+(120n-60n))) : 0)) / (1) \
         ps=(((640nM)/(1)) < (160n+2*60n)) ? ((2*(((280.0n)+(2*(60n-60n)))+(60n+160n+60n)+100n)) + (int(((1) - 1) / 2.0) * (2*(((280.0n)+(2*(60n-60n)))+(60n+160n+60n))+(4*100n))) + ((((1) / 2) - int((1) / 2) == 0) ? (2*(((280.0n)+(2*(60n-60n)))+(60n+160n+60n)+100n)) : 0)) / (1) : ((2*((640nM)/(1)+(60n-60n+(280.0n)+(120n-60n)))) + (int(((1) - 1) / 2.0) * (2*((640nM)/(1)+((120n-60n)+(280.0n)+(120n-60n))))) + ((((1) / 2) - int((1) / 2) == 0) ? (2*((640nM)/(1)+(60n-60n+(280.0n)+(120n-60n)))) : 0)) / (1) \
         pd=(((640nM)/(1)) < (160n+2*60n)) ? ((int((1) / 2.0) * (2*(((280.0n)+(2*(60n-60n)))+(60n+160n+60n))+(4*100n))) + ((((1) / 2) - int((1) / 2) != 0) ? (2*(((280.0n)+(2*(60n-60n)))+(60n+160n+60n)+100n)) : 0)) / (1) : ((int((1) / 2.0) * (2*((640nM)/(1)+((120n-60n)+(280.0n)+(120n-60n))))) + ((((1) / 2) - int((1) / 2) != 0) ? (2*((640nM)/(1)+(60n-60n+(280.0n)+(120n-60n)))) : 0)) / (1) \
         m=(1)*(1) nf=1 mis_flag=1 mf=(1)*(1)
ends delay_chain
// End of subcircuit definition.

// Library name: Project_Lib1
// Cell name: comparator
// View name: schematic
subckt comparator GND IN OUT VDD
    NM0 (OUT IN GND GND) n_12_hsl130e w=160.0n l=130.0n as=9.44e-14 \
        ad=9.44e-14 ps=1.32u pd=1.32u m=(1)*(1) nf=1 mis_flag=1 mf=(1)*(1)
    PM0 (OUT IN VDD VDD) p_12_hsl130e w=640.0n l=130.0n as=2.176e-13 \
        ad=2.176e-13 ps=1.96u pd=1.96u m=(1)*(1) nf=1 mis_flag=1 \
        mf=(1)*(1)
ends comparator
// End of subcircuit definition.

// Library name: Project_Lib1
// Cell name: photodiode
// View name: schematic
subckt photodiode N P
    D0 (P N) dionw_l130e area=1e-10 perim=(40u) m=1
ends photodiode
// End of subcircuit definition.

// Library name: Project_Lib1
// Cell name: reset
// View name: schematic
subckt reset ASR GR VDD VN
    PM1 (VN ASR VDD VDD) p_12_hsl130e w=3u l=360.0n as=1.02e-12 \
        ad=1.02e-12 ps=6.68u pd=6.68u m=(1)*(1) nf=1 mis_flag=1 mf=(1)*(1)
    PM0 (VN GR VDD VDD) p_12_hsl130e w=3u l=360.0n as=1.02e-12 ad=1.02e-12 \
        ps=6.68u pd=6.68u m=(1)*(1) nf=1 mis_flag=1 mf=(1)*(1)
ends reset
// End of subcircuit definition.

// Library name: Project_Lib1
// Cell name: integrated
// View name: schematic
subckt integrated B7 BHIGH GND GR VDD
    I0 (net12 BHIGH BHIGH BHIGH BHIGH BHIGH BHIGH B7 net11 GND VDD) asr
    I1 (GND net14 net11 VDD) delay_chain
    I2 (GND GND net14 VDD) comparator
    I3 (net13 GND) photodiode
    I4 (net12 GR VDD net13) reset
ends integrated
// End of subcircuit definition.

// Library name: Project_Lib1_sim
// Cell name: integrated_sim
// View name: schematic
I0 (net5 vdd! 0 net3 vdd!) integrated
V1 (net5 0) vsource type=pulse val0=0 val1=1.2 period=90u delay=89u \
        rise=50n fall=50n width=1u
V0 (net3 0) vsource type=pulse val0=0 val1=1.2 period=100u delay=0 \
        rise=50n fall=50n width=1u
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=200u errpreset=conservative write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save V0:p V1:p 
saveOptions options save=allpub
